US06977262B2
Ethyl 4-(2-aminophenyl)-4,7-dihydro-6-propyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
To a solution of ethyl 4,7-dihydro-4-(2-nitrophenyl)-6-propyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate (1.68 g) in methanol (30 mL) was added 5% palladium-carbon (500 mg), and the mixture was stirred under 10 atm for 3 hours. After removing palladium-carbon by Celite filtration, the solvent was evaporated under reduced pressure to give an oil. The obtained oil was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (1:1)) to give the title compound (120 mg) as colorless crystals.

reactant | ethyl 4,7-dihydro-4-(2-nitrophenyl)-6-propyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | 1.68 g | [N+](=O)([O-])C1=C(C=CC=C1)C1C=2C(NC(=C1C(=O)OCC)CCC)=NNC2 | C18H20N4O4
solvent | methanol | 30 mL | CO | CH4O
catalyst | palladium-carbon | 500 mg | [C].[Pd]
product | Ethyl 4-(2-aminophenyl)-4,7-dihydro-6-propyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | 120 mg | NC1=C(C=CC=C1)C1C=2C(NC(=C1C(=O)OCC)CCC)=NNC2 | C18H22N4O2
